US04456465
A mixture of 2,2-dimethylpropionyloxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate (4.7 mmol) and phosphorus pentasulfide (1.2 mmol) is heated to 150°-160° under nitrogen for 3-4 hours. After cooling, the residue is purified by prep. TLC (20% ethyl acetate/hexane) to give O-(2,2-dimethylpropionyloxymethyl) P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate.

reactant | 2,2-dimethylpropionyloxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | 4.7 mmol | C(C)P(OCOC(C(C)(C)C)=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C21H22ClF3NO7P
reactant | phosphorus pentasulfide | 1.2 mmol | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | O-(2,2-dimethylpropionyloxymethyl) P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinothioate | C(C)P(OCOC(C(C)(C)C)=O)(=S)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C21H22ClF3NO6PS
